US07378447B2
Add sodium hydride (60% in mineral oil, 6.63 g, 166 mmol) to a solution of 2-hydroxyethylamine (10.0 mL, 166 mmol) in dioxane (150 mL) at room temperature under nitrogen. After stirring for 10 minutes at room temperature, add 2-chloropyridine (15.6 mL, 166 mmol) and heat the reaction mixture to reflux. After stirring at reflux for 14 hours, cool the reaction mixture to room temperature and dilute with water (100 mL) and methylene chloride (200 mL). Extract the aqueous layer with methylene chloride (2×100 mL). Wash the combined organic phase with brine (200 mL), dry over magnesium sulfate, filter, and concentrate to an orange oil. Flash chromatography on silica gel eluting with 50% of a (80:18:2 CHCl3/MeOH/concentrated NH4OH) solution in methylene chloride affords 2-phenoxy-ethylamine as a yellow oil (17.9 g, 78%). 1H NMR (CDCl3) δ 8.09-8.15 (m, 1H), 7.53-7.56 (m, 1H), 6.80-6.85 (m, 1H), 6.70-6.75 (m, 1H), 4.27-4.31 (m, 2H), 3.06-3.10 (m, 2H); MS (ES): m/z 139 (M+H).

reactant | sodium hydride | 166 mmol, 6.63 g | [H-].[Na+]
reactant | 2-hydroxyethylamine | 166 mmol, 10.0 mL | OCCN | C2H7NO
reactant | 2-chloropyridine | 166 mmol, 15.6 mL | ClC1=NC=CC=C1 | C5H4ClN
reactant | dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-phenoxy-ethylamine | 17.9 g, 78% | O(C1=CC=CC=C1)CCN | C8H11NO
